US06043248
To a solution of 2-chloro-6-iodo-3-pyridinol (500 mg, 1.96 mmol), and K2CO3 (690 mg, 5.0 mmol) in methanol (5 mL) was added benzyl bromide (510 mg, 3.0 mmol). The reaction was refluxed for 60 minutes and was allowed to cool to 22° C. The mixture was then concentrated in vacuo. The remaining solids were slurried in ethyl acetate and filtered. The filtrate was dried over MgSO4 and concentrated in vacuo to yield 416 mg (61%) of 2-chloro-3-benzyloxy-6-iodo-pyridine.

reactant | 2-chloro-6-iodo-3-pyridinol | 1.96 mmol, 500 mg | ClC1=NC(=CC=C1O)I | C5H3ClINO
reactant | K2CO3 | 5.0 mmol, 690 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 3.0 mmol, 510 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | methanol | 5 mL | CO | CH4O
product | 2-chloro-3-benzyloxy-6-iodo-pyridine | 416 mg, 61% | ClC1=NC(=CC=C1OCC1=CC=CC=C1)I | C12H9ClINO
